US07488740B2
2. 4,6-Dihydroxy-2-methoxymethyl-nicotinic acid methyl ester
2-(1,2-Dimethoxy-ethylidene)-3-oxo-pentanedioic acid dimethyl ester (29.8 g, 115 mmol) is dissolved in a solution of EtOH (250 mL), water (250 mL) and concentrated NH4OH(aq) (30 mL). The mixture is heated to 60° C. for 5 hours. The reaction mixture is cooled to room temperature and the EtOH removed under reduced pressure. The remaining aqueous solution is cooled in an ice bath and acidified with concentrated hydrochloric acid, at which time a white precipitate appeared. The precipitate is collected and dried in a vacuum oven to yield the title compound.

reactant | 2-(1,2-Dimethoxy-ethylidene)-3-oxo-pentanedioic acid dimethyl ester | 115 mmol, 29.8 g | COC(C(C(CC(=O)OC)=O)=C(COC)OC)=O | C11H16O7
reactant | NH4OH | 30 mL | [NH4+].[OH-]
solvent | EtOH | 250 mL | CCO | C2H6O
solvent | water | 250 mL | O | H2O
product | 4,6-Dihydroxy-2-methoxymethyl-nicotinic acid methyl ester | COC(C1=C(N=C(C=C1O)O)COC)=O | C9H11NO5
